US08633182B2
Step 1: 4-Benzyloxy-2-methoxy-benzaldehyde
4-Hydroxy-2-methoxybenzaldehyde (2.0 g, 13.15 mmol), benzyl bromide (3.14 mL, 26.3 mmol) and potassium carbonate (3.63 g, 26.3 mmol) are combined in acetone (5 mL) and the mixture is stirred for 4 hours. The mixture is concentrated under vacuum, suspended in dichloromethane and washed with water. The organic phase is concentrated under vacuum and the residue purified by flash chromatography (10% ethyl acetate in cyclohexane) to give the title compound (yield 2.0 g).

reactant | 4-Hydroxy-2-methoxybenzaldehyde | 13.15 mmol, 2.0 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | benzyl bromide | 26.3 mmol, 3.14 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 26.3 mmol, 3.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-Benzyloxy-2-methoxy-benzaldehyde | yield 2.0 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)OC | C15H14O3
